US07192954B2
Step B. tert-Butyl (5,7-dimethyl-2-oxo-1,3-benzoxazol-3(2H)-yl)acetate
To a stirred solution of 5,7-dimethyl-2-benzoxazolinone (200 mg, 1.23 mmol) in DMF (2 mL) was added sodium hydride (59 mg of a 60% dispersion in mineral oil, 1.47 mmol). The mixture was stirred at ambient temperature for 10 min, then tert-butyl bromoacetate (287 mg, 1.47 mmol) was added and stirring was continued for 2 h. The reaction mixture was quenched with H2O and purified directly by HPLC using a reversed phase C18 column and eluting with a gradient of H2O:CH3CN:CF3CO2H—90:10:0.1 to 5:95:0.1. Lyophilization provided the title compound. MS: m/z=222 (M−C4H7).

reactant | 5,7-dimethyl-2-benzoxazolinone | 1.23 mmol, 200 mg | CC=1C=C(C2=C(NC(O2)=O)C1)C | C9H9NO2
reactant | sodium hydride | [H-].[Na+]
reactant | tert-butyl bromoacetate | 1.47 mmol, 287 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-Butyl (5,7-dimethyl-2-oxo-1,3-benzoxazol-3(2H)-yl)acetate | CC=1C=C(C2=C(N(C(O2)=O)CC(=O)OC(C)(C)C)C1)C | C15H19NO4
